US05112966
To a solution f (3S,4S)-4-(1-t-butyldimethylsilyloxymethylethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2-azetidinone (20 g) in acetonitrile (200 ml) were added 5% platinium on activated carbon (4.0 g) and water (4 ml) under nitrogen atmosphere. The mixture was stirred at 10° C. in a hydrogen gas flow until 2.2 equivalents of hydrogen had been taken up. The catalyst was removed by filtration and washed with ethyl acetate. The filtrate and the washings were combined together and concentrated in vacuo to give (3S,4S)-4-(1-t-butyldimethylsilyloxymethylethyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di-(p-anisyl)methyl-2-azetidinone as an oil.

reactant | (3S,4S)-4-(1-t-butyldimethylsilyloxymethylethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2-azetidinone | 20 g | [Si](C)(C)(C(C)(C)C)OCC(=C)[C@@H]1[C@H](C(N1C(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)=O)[C@@H](C)OC(=O)OCC1=CC=CC=C1 | C39H51NO7Si
reactant | water | 4 ml | O | H2O
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | 2.2 equivalents | [H][H] | H2
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | (3S,4S)-4-(1-t-butyldimethylsilyloxymethylethyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di-(p-anisyl)methyl-2-azetidinone | [Si](C)(C)(C(C)(C)C)OCC(C)[C@H]1[C@H](C(N1C(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)=O)[C@@H](C)OC(=O)OCC1=CC=CC=C1 | C39H53NO7Si
